US08629270B2
3-[(4aR,7aS)-2-Amino-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a-yl]benzonitrile hydrochloride
To a solution of racemic N-[7a-(3-bromophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (180 mg, 393 mmol) in ethanol (8.0 mL) is added sequentially pyridine (0.5 mL, 6.2 mmol) and O-methylhydroxylamine hydrochloride (350 mg, 4.19 mmol). The mixture is heated at 60° C. for 16 hours, cooled to ambient temperature, and concentrated to dryness. The residue is purified by silica gel flash chromatography, eluting with a gradient of 0 to 10% of dichloromethane/2 M ammonia in methanol to give the free base form of the title compound as a colorless oil. The racemic material is separated chirally by SFC (Column: Chiralpak AS-H, 5μ; eluent: 35% isopropyl alcohol with 0.2% isopropylamine) in CO2; flow: 70 mL/minute at 225 nm). The first eluting isomer is the free base of the title compound, (Rt=0.92 minutes). EI/MS (m/e): 355 (M+H). This isomer is dissolved in dichloromethane (1 mL) and hydrogen chloride gas is bubbled through this solution for approximately 10 seconds. The solution is then concentrated to give the title compound as a white solid (55 mg, 36%, >99% ee).

reactant | racemic N-[7a-(3-bromophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 393 mmol, 180 mg | BrC=1C=C(C=CC1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)NC(C2=CC=CC=C2)=O | C23H19BrFN5OS
reactant | pyridine | 6.2 mmol, 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | O-methylhydroxylamine hydrochloride | 4.19 mmol, 350 mg | Cl.CON
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
product | 3-[(4aR,7aS)-2-Amino-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-7a-yl]benzonitrile hydrochloride | Cl.NC=1SC[C@H]2[C@@](N1)(CN(C2)C2=NC=C(C=N2)F)C=2C=C(C#N)C=CC2 | InChI=1S/C17H15FN6S.ClH/c18-14-6-21-16(22-7-14)24-8-13-9-25-15(20)23-17(13,10-24)12-3-1-2-11(4-12)5-19;/h1-4,6-7,13H,8-10H2,(H2,20,23);1H/t13-,17+;/m0./s1
